US07525717B2
2-(Chloromethyl)-1-methyl-1H-benzimidazole
To a pressure reaction bottle was added 4 g N-methyl-2-nitroaniline, 0.44 g 5% palladium on carbon, and 100 ml ethanol. The mixture was hydrogenated at 22 C and 40 psi hydrogen for 2 hours. Following filtration through celite, and solvent removal, a dark red oil was obtained. To this oil was added 3.7 g chloroacetic acid and 40 ml 5M hydrochloric acid. After refluxing under nitrogen for 2.5 hours, the mixture was cooled to 22 C, diluted with 200 ml water, and neutralized with solid sodium bicarbonate. The resulting solid was filtered, washed with water and dried giving 3.7 g gray solid.

reactant | N-methyl-2-nitroaniline | 4 g | CNC1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrogen | [H][H] | H2
reactant | chloroacetic acid | 3.7 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 5M, 40 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium on carbon | 0.44 g | [Pd] | Pd
solvent | water | 200 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(Chloromethyl)-1-methyl-1H-benzimidazole | 3.7 g | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
